US07538199B2
Synthesis of bis-(6-bromo-hexyl)-phenyl-amine (Synthesis Process 220 in FIG. 3)
0.45 ml of aniline (5 mmol), 2.5 ml of dibromohexane (14.6 mmol), and sodium acetate (14.5. mmol) were charged in a reaction container and slowly heated to about 95 to 100° C. while generating bubbles under a nitrogen atmosphere. The reactant mixture was agitated for about 10 hours at about 95 to 100° C. The mixture was cooled down to room temperature, mixed with 30 ml of distilled water, and agitated for 10 minutes. The mixture was then treated to extract organic layers using ethylacetate, and then was distillated through reduced pressure distillation, thereby obtaining a sticky liquid. The sticky liquid was separated using preparative TLC (eluent: CH2Cl2:Hexane=1:2.5). The obtained compound was confirmed to be the compounds 221 of FIG. 3 using a 1H-NMR spectometry and mass spectometry. The results are shown in FIG. 5.

reactant | aniline | 5 mmol, 0.45 ml | NC1=CC=CC=C1 | C6H7N
reactant | dibromohexane | 14.6 mmol, 2.5 ml | BrC(CCCCC)Br | C6H12Br2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | 30 ml | O | H2O
product | bis-(6-bromo-hexyl)-phenyl-amine | BrCCCCCCN(C1=CC=CC=C1)CCCCCCBr | C18H29Br2N
